US04113463
2 Parts of N-p-chlorobezenesulfonyl-sarcosine is added to a diazomethane-ethereal solution. After the generation of nitrogen has ceased, the precipitated reaction product is collected by filtration to obtain 1.2 parts of N-p-chlorobenzenesulfonyl-sarcosine methyl ester, m.p. 80°-80.5° C.

reactant | N-p-chlorobezenesulfonyl-sarcosine | ClC1=CC=C(C=C1)S(=O)(=O)N(C)CC(=O)O | C9H10ClNO4S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | N-p-chlorobenzenesulfonyl-sarcosine methyl ester | COC(CN(C)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C10H12ClNO4S
